US08685974B2
A mixture of 2-acetylthiophene (198 mmol) and N,N-dimethylformamide dimethyl acetal (297 mmol) was refluxed overnight and then allowed to cool to room temperature. The reaction mixture was concentrated under reduced pressure and dried in vacuo to afford 36 g (100% yield) of 3-(dimethylamino)-1-(2-thienyl)prop-2-en-1-one which was used in the next step without further purification.

reactant | 2-acetylthiophene | 198 mmol | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | N,N-dimethylformamide dimethyl acetal | 297 mmol | COC(N(C)C)OC | C5H13NO2
product | 3-(dimethylamino)-1-(2-thienyl)prop-2-en-1-one | 36 g, 100% yield | CN(C=CC(=O)C=1SC=CC1)C | C9H11NOS
